US07723369B2
2-(4-Bromo-benzyl)-4-(4-trifluoromethyl-phenyl)-1H-imidazole (9.6 g, 25 mmol) was treated as described in general procedure B using 1-fluoro-4-nitrobenzene to give 2-(4-bromo-benzyl)-1-(4-Nitro-phenyl)-4-(4-trifluoromethyl-phenyl)-1H-imidazole.

reactant | 2-(4-Bromo-benzyl)-4-(4-trifluoromethyl-phenyl)-1H-imidazole | 25 mmol, 9.6 g | BrC1=CC=C(CC=2NC=C(N2)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C17H12BrF3N2
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 2-(4-bromo-benzyl)-1-(4-Nitro-phenyl)-4-(4-trifluoromethyl-phenyl)-1H-imidazole | BrC1=CC=C(CC=2N(C=C(N2)C2=CC=C(C=C2)C(F)(F)F)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C23H15BrF3N3O2
